US08912188B2
To a solution of 5-bromo-3-methyl-1-benzofuran (1.9 g, 9.00 mmol) in 1,4-dioxane (30 mL) was added KOAc (2.2 g, 22.42 mmol) and Pd(dppf)Cl2 (600 mg, 0.82 mmol). The solution was stirred for 15 minutes at room temperature and then 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (2.7 g, 10.63 mmol) was added. The resulting solution was stirred overnight at 85° C., followed by quenching via the addition of water (100 mL). The resulting solution was extracted with ethyl acetate (3×30 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to give a residue, which was purified by silica gel chromatography (petroleum ether) to afford 4,4,5,5-tetramethyl-2-(3-methyl-1-benzofuran-5-yl)-1,3,2-dioxaborolane as a light yellow solid (1.5 g, 65%).

reactant | 5-bromo-3-methyl-1-benzofuran | 9.00 mmol, 1.9 g | BrC=1C=CC2=C(C(=CO2)C)C1 | C9H7BrO
reactant | KOAc | 22.42 mmol, 2.2 g | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 10.63 mmol, 2.7 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.82 mmol, 600 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4,4,5,5-tetramethyl-2-(3-methyl-1-benzofuran-5-yl)-1,3,2-dioxaborolane | 1.5 g, 65% | CC1(OB(OC1(C)C)C=1C=CC2=C(C(=CO2)C)C1)C | C15H19BO3
